US04014679
2-methylthioacetoacetanilide [formed from α-chloroacetoacetanilide and sodium methylmercaptan] was reacted with diazomethane to obtain 3-methoxy-2-methylthio-crotonanilide melting at 155° C.

reactant | 2-methylthioacetoacetanilide | CC(C(=S)NC1=CC=CC=C1)C(=O)C | C11H13NOS
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | 3-methoxy-2-methylthio-crotonanilide | CO\C(=C(/C(=S)NC1=CC=CC=C1)\C)\C | C12H15NOS
